US09127003B2
Intermediate 7: 1 1H-Pyrrolo[2,3-b]pyridine-2-carbaldehyde
To a solution of 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde (2.5 g, 8.73 mmol) in methanol (50 mL) stirred under nitrogen at r.t. was added a solution of KOH (1.96 g, 34.9 mmol) in water (5 mL) dropwise during 1 min. The reaction mixture was stirred at r.t. for 30 min, TLC showed complete conversion. The reaction mixture was diluted with H2O (150 mL), extracted with dichloromethane (3×150 mL) and the organic phase was washed with saturated brine (3×50 mL), water 100 mL, dried over sodium sulfate and evaporated in vacuo to give the title compound as a yellow solid (1 g, 54.9% yield) which was used in the next reaction without further purification.

reactant | 1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-carbaldehyde | 8.73 mmol, 2.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C=O | C14H10N2O3S
reactant | KOH | 34.9 mmol, 1.96 g | [OH-].[K+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | H2O | 150 mL | O | H2O
product | 1H-Pyrrolo[2,3-b]pyridine-2-carbaldehyde | 1 g, 54.9% yield | N1C(=CC=2C1=NC=CC2)C=O | C8H6N2O
